* Library with multiple corner sections

.LIB TYPICAL
.SUBCKT NMOS_TYP D G S B
* Typical corner NMOS
.model nmos_typ NMOS (level=1 vto=0.7 kp=120u)
M1 D G S B nmos_typ W=1u L=0.5u
.ENDS
.ENDL

.LIB FAST
.SUBCKT NMOS_FAST D G S B
* Fast corner NMOS
.model nmos_fast NMOS (level=1 vto=0.6 kp=150u)
M1 D G S B nmos_fast W=1u L=0.5u
.ENDS
.ENDL

.LIB SLOW
.SUBCKT NMOS_SLOW D G S B
* Slow corner NMOS  
.model nmos_slow NMOS (level=1 vto=0.8 kp=90u)
M1 D G S B nmos_slow W=1u L=0.5u
.ENDS
.ENDL
